US06255496B1
(Z)-4-[4-[2-(Dodecylsulfonyl)ethoxy]phenyl]-1,1,1-trifluoro-2-propionyloxy-2-butene
Reaction of 4-[4-[2-(dodecylsulfonyl)ethoxy]phenyl]-1,1,1-trifluoro-2-butanone (0.87 g, 1.82 mmol) with propionic anhydride using the procedure described above gave 0.866 g (89%) of the title material as a white solid: mp 60-63° C.

reactant | 4-[4-[2-(dodecylsulfonyl)ethoxy]phenyl]-1,1,1-trifluoro-2-butanone | 1.82 mmol, 0.87 g | C(CCCCCCCCCCC)S(=O)(=O)CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C24H37F3O4S
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | (Z)-4-[4-[2-(Dodecylsulfonyl)ethoxy]phenyl]-1,1,1-trifluoro-2-propionyloxy-2-butene | 0.866 g, 89% | C(CCCCCCCCCCC)S(=O)(=O)CCOC1=CC=C(C=C1)C\C=C(\C(F)(F)F)/OC(CC)=O | C27H41F3O5S
